US07226923B2
4-Bromo-2-(3-trifluoromethylphenyl)-2H-phthalazin-1-one
4-Hydroxy-2-(3-trifluoromethylphenyl)-2H-phthalazin-1-one (0.50 g, 1.6 mmol) and phosphorus oxybromide (1.9 g, 6.5 mmol) were stirred at 150° C. for 2 h. H2O (100 ml) was added after cooling to room temperature. The precipitated solid was collected by filtration and washed with H2O. Drying of the solid in vacuum gave the title compound (0.4 g, 66% yield). 1H-NMR: (400 MHz, D6-DMSO) 8.39 (1H, d), 7.95–8.12 (5H, m), 7.79–7.99 (2H, m); MS (ESI+)=370.98 (M+H)+.

reactant | 4-Hydroxy-2-(3-trifluoromethylphenyl)-2H-phthalazin-1-one | 1.6 mmol, 0.50 g | OC1=NN(C(C2=CC=CC=C12)=O)C1=CC(=CC=C1)C(F)(F)F | C15H9F3N2O2
reactant | phosphorus oxybromide | 6.5 mmol, 1.9 g | P(=O)(Br)(Br)Br | Br3OP
solvent | H2O | 100 ml | O | H2O
product | 4-Bromo-2-(3-trifluoromethylphenyl)-2H-phthalazin-1-one | 0.4 g, 66% yield | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC(=CC=C1)C(F)(F)F | C15H8BrF3N2O
